US04140696
3-Amino-4,5-dicarbomethoxy-2-(p-chlorophenyl)pyrrole hydrochloride
Starting from 2-amino-2-(p-chlorophenyl)acetonitrile and dicarbomethoxyacetylene, the open-chain intermediate compound is obtained, m.p. 74°-76° C. (from diethyl ether). The title compound is obtained in a 48% overall yield, m.p. 216°-8° C. (from methanol/diethyl ether).

reactant | 2-amino-2-(p-chlorophenyl)acetonitrile | NC(C#N)C1=CC=C(C=C1)Cl | C8H7ClN2
reactant | dicarbomethoxyacetylene | C(=O)(OC)C#CC(=O)OC | C6H6O4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol diethyl ether | CO.C(C)OCC
product | 3-Amino-4,5-dicarbomethoxy-2-(p-chlorophenyl)pyrrole hydrochloride | Cl.NC1=C(NC(=C1C(=O)OC)C(=O)OC)C1=CC=C(C=C1)Cl | InChI=1S/C14H13ClN2O4.ClH/c1-20-13(18)9-10(16)11(17-12(9)14(19)21-2)7-3-5-8(15)6-4-7;/h3-6,17H,16H2,1-2H3;1H
